US20010027196A1
A stirred solution of 200 mg (0.87 mmol) 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile and 5.0 ml (129 mmol) methylamine in 15 ml ethanol in a pressure tube was heated at 100° C. for 16 h. The reaction mixture was then concentrated in vacuo and the resulting crystals washed with ether and ether/ethanol to afford 130 mg (75%) 2-amino-4-furan-2-yl-6-methylamino-pyrimidine-5-carbonitrile as a white crystalline solid. EI-MS m/e (%): 215 (M+, 100), 214 ([M—H]+, 76), 186 (40).

reactant | 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile | 0.87 mmol, 200 mg | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)SC | C10H8N4OS
reactant | methylamine | 129 mmol, 5.0 ml | CN | CH5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-amino-4-furan-2-yl-6-methylamino-pyrimidine-5-carbonitrile | 130 mg, 75% | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NC | C10H9N5O
